US05114968
83 g of pulverised potassium carbonate and 4 g of of finely powdered potassium iodide are added to a solution of 94.1 g of 4-(4-fluorophenoxy)phenol in 400 ml of methyl ethyl ketone, and the mixture is heated to reflux temperature. With stirring, 64 g of freshly distilled chloroacetone are added dropwise over 1 hour, and the reaction mixture is stirred for a further 2 hours at reflux temperature. After cooling, the reaction mixture is filtered and the solvent is removed by vacuum distillation. The crude product is recrystallised from n-hexane/diethyl ether (5:1), to give the pure, colourless 1-[4-(4-fluorophenoxy)phenoxy]-2-propanone which melts at 56°-57° C.

reactant | potassium carbonate | 83 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
reactant | 4-(4-fluorophenoxy)phenol | 94.1 g | FC1=CC=C(OC2=CC=C(C=C2)O)C=C1 | C12H9FO2
reactant | chloroacetone | ClCC(C)=O | C3H5ClO
solvent | methyl ethyl ketone | 400 ml | C(C)C(=O)C | C4H8O
product | 1-[4-(4-fluorophenoxy)phenoxy]-2-propanone | FC1=CC=C(OC2=CC=C(OCC(C)=O)C=C2)C=C1 | C15H13FO3
